US08470841B2
N-{3-[5-(4-Benzyloxyphenoxy)-[1,3]dioxan-2-yl]propyl}acetamide
2-(4-Benzyloxyphenoxy)propane-1,3-diol (98 mg, 0.36 mmol), N-(4,4-diethoxybutyl)acetamide (73.06 mg, 0.36 mmol) and p-toluenesulfonic acid (61.89 mg, 0.36 mmol) were stirred in 6 ml of toluene at 60° C. for 2 h and concentrated. The organic phase was separated off, concentrated and purified by preparative HPLC (PR18, acetonitrile/water 0.1% TFA). Yield: 30.8 mg (22%) of cis-N-{3-[5-(4-benzyloxyphenoxy)-[1,3]dioxan-2-yl]propyl}acetamide, M+H+: 386.15 and 29.8 mg (22%) of trans-N-{3-[5-(4-benzyloxyphenoxy)-[1,3]dioxan-2-yl]propyl}acetamide, M+H+: 386.19.

reactant | 2-(4-Benzyloxyphenoxy)propane-1,3-diol | 0.36 mmol, 98 mg | C(C1=CC=CC=C1)OC1=CC=C(OC(CO)CO)C=C1 | C16H18O4
reactant | N-(4,4-diethoxybutyl)acetamide | 0.36 mmol, 73.06 mg | C(C)OC(CCCNC(C)=O)OCC | C10H21NO3
reactant | p-toluenesulfonic acid | 0.36 mmol, 61.89 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
product | N-{3-[5-(4-Benzyloxyphenoxy)-[1,3]dioxan-2-yl]propyl}acetamide | C(C1=CC=CC=C1)OC1=CC=C(OC2COC(OC2)CCCNC(C)=O)C=C1 | C22H27NO5
